US07595345B2
E. Acetic acid 1-{4-[1-(4-benzyloxy-3-methyl-phenyl)-1-ethyl-propyl]-2-methyl-phenoxymethyl}-1-ethyl-propyl ester
A reaction mixture containing 3-{4-[1-(4-benzyloxy-3-methyl-phenyl)-1-ethyl-propyl]-2-methyl-phenoxymethyl}-pentan-3-ol (3.92 g, 8.27 mmol), Et3N (11.5 mL, 82.7 mmol) and Ac2O (3.9 mL, 41.3 mmol), is stirred at rt for 3 h. It is diluted with EtOAc (100 mL), washed with 0.1 M HCl (2×60 mL) and brine (60 mL); MgSO4 dried and concentrated to give the title compound (2.82 g, 5.47 mmol, 66%).

reactant | 3-{4-[1-(4-benzyloxy-3-methyl-phenyl)-1-ethyl-propyl]-2-methyl-phenoxymethyl}-pentan-3-ol | 8.27 mmol, 3.92 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(OCC(CC)(CC)O)C=C1)C)C | C32H42O3
reactant | Et3N | 82.7 mmol, 11.5 mL | CCN(CC)CC | C6H15N
reactant | Ac2O | 41.3 mmol, 3.9 mL | CC(=O)OC(=O)C | C4H6O3
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | Acetic acid 1-{4-[1-(4-benzyloxy-3-methyl-phenyl)-1-ethyl-propyl]-2-methyl-phenoxymethyl}-1-ethyl-propyl ester | 5.47 mmol, 2.82 g, 66% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C(CC)(CC)C1=CC(=C(OCC(CC)(CC)OC(C)=O)C=C1)C)C | C34H44O4
